US07550459B2
(S)-4-(3-Iodo-2-methylpropyl]-4H-benzo[1,4]oxazin-3-one
A reaction flask was charged with (S)-4-(3-Hydroxy-2-methylpropyl]-4H-benzo[1,4]oxazin-3-one (2.52 g, 11.4 mmol), triphenylphosphine (6.12 g, 23.3 mmol), imidazole (1.98 g, 29.1 mmol), and iodine (8.88 g, 35.0 mmol) in CHCl3 (30 mL) and stirred at rt for 20 h. The reaction mixture was washed with saturated sodium thiosulfate, dried over Na2SO4, filtered, and concentrated. The product was purified by flash column chromatography (SiO2; n-heptane/EtOAc 3:1) to give the title compound (3.02 g, 80%). 1H NMR (CDCl3) δ 7.07-7.00 (m, 4H), 4.65-4.55 (m, 2H), 3.94 (dd, J=1.7 Hz, J=6.7 Hz, CH2), 3.23-3.14 (m, 2H), 2.18-2.07 (m, 1H), 1.05 (d, J=6.1 Hz, CH3).

reactant | (S)-4-(3-Hydroxy-2-methylpropyl]-4H-benzo[1,4]oxazin-3-one | 11.4 mmol, 2.52 g | OC[C@H](CN1C(COC2=C1C=CC=C2)=O)C | C12H15NO3
reactant | triphenylphosphine | 23.3 mmol, 6.12 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | imidazole | 29.1 mmol, 1.98 g | N1C=NC=C1 | C3H4N2
reactant | iodine | 35.0 mmol, 8.88 g | II | I2
solvent | CHCl3 | 30 mL | C(Cl)(Cl)Cl | CHCl3
product | (S)-4-(3-Iodo-2-methylpropyl]-4H-benzo[1,4]oxazin-3-one | 3.02 g, 80% | IC[C@H](CN1C(COC2=C1C=CC=C2)=O)C | C12H14INO2
